US04912241
3-[4-(2-Methyl-2-Propenyl)Oxy-Phenyl]-2-Propenoic Acid n-Butyl Ester
121 g (0.88M) of finely powdered potassium carbon are are introduced into 400 ml N,N-dimethyl formamide. With stirring 1 g of potassium iodide, 176 g (0.8M) of p-hydroxy cinnamic acid n-butylester (see above) and 85 ml (0.87M) of methallyl chloride are added. Under a blanket of nitrogen and with stirring the mixture is heated up to 70° C. and kept at that temperature until the starting material is consumed (about 21 hours). The mixture is cooled to room temperature and 500 ml of water are added. The solution is extracted three times with a total of 1.2 liter of hexane and the hexane extracts are subsequently washed with a 10% solution of sodium carbonate and water. The hexane extract is evaporated at 30° C. in vacuo (about 12 mbar) to dryness. The residue is crystallised from 80 ml of methanol at 0° C. The colourless crystalline product is collected by filtration and dried in high vacuo (about 0.1 mbar) at room temperature. 163.5 g (74.5% of theory) of product melting at 32°-33° C. are obtained.

reactant | potassium carbon | [C].[K]
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | p-hydroxy cinnamic acid n-butylester | 0.8M, 176 g | C(CCC)OC(C=CC1=CC=C(C=C1)O)=O | C13H16O3
reactant | methallyl chloride | 0.87M, 85 ml | C(C(C)=C)Cl | C4H7Cl
solvent | N,N-dimethyl formamide | 400 ml | CN(C=O)C | C3H7NO
product | 3-[4-(2-Methyl-2-Propenyl)Oxy-Phenyl]-2-Propenoic Acid n-Butyl Ester | C(CCC)OC(C=CC1=CC=C(C=C1)OCC(=C)C)=O | C17H22O3
